US04145433
To a solution of 19.5 g (0.1 mol) 4-thiocyano-2-nitroaniline in 130 ml dimethylformamide is added 3.78 g (0.1 mol) sodium borohydride, all at once. The mixture is stirred for one-half hour, then 15.2 g (0.1 mol) benzyl methanesulfonate in 70 ml dimethylformamide is added. The solution is stirred at 30° for 3 hours, cooled and partitioned between water and dichloromethane. The layers are separated and the aqueous phase reextracted with dichloromethane. The organic phases are combined, washed with aqueous K2CO3, water and saturated NaCl, dried, filtered and stripped to yield 4-(benzyl)sulfenyl-2-nitroaniline.

reactant | 4-thiocyano-2-nitroaniline | 0.1 mol, 19.5 g | S(C#N)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H5N3O2S
reactant | sodium borohydride | 0.1 mol, 3.78 g | [BH4-].[Na+]
reactant | benzyl methanesulfonate | 0.1 mol, 15.2 g | CS(=O)(=O)OCC1=CC=CC=C1 | C8H10O3S
solvent | dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 4-(benzyl)sulfenyl-2-nitroaniline | C(C1=CC=CC=C1)SC1=CC(=C(N)C=C1)[N+](=O)[O-] | C13H12N2O2S
